US07612114B2
Synthesized from 2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)-3-methylphenylamine and 3-fluoro-4-(2-piperidin-1-ylethoxy)benzoyl chloride hydrochloride according to an analogous synthetic method to Example 152, [3-fluoro-4-(2-piperidin-1-ylethoxy)benzyl][2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)-3-methylphenyl]amine (578 mg) was used according to an analogous synthetic method to Example 36 to provide ethyl[3-fluoro-4-(2-piperidin-1-ylethoxy)benzyl][2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)-3-methylphenyl]amine (449 mg). This compound (447 mg) was used according to an analogous synthetic method to Example 111 to provide the title compound (317 mg).

reactant | 2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)-3-methylphenylamine | COC=1C=C2CCC(CC2=CC1)C1=C(C=CC=C1C)N | C18H21NO
reactant | 3-fluoro-4-(2-piperidin-1-ylethoxy)benzoyl chloride hydrochloride | Cl.FC=1C=C(C(=O)Cl)C=CC1OCCN1CCCCC1
reactant | [3-fluoro-4-(2-piperidin-1-ylethoxy)benzyl][2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)-3-methylphenyl]amine | 578 mg | FC=1C=C(CNC2=C(C(=CC=C2)C)C2CC3=CC=C(C=C3CC2)OC)C=CC1OCCN1CCCCC1 | C32H39FN2O2
product | ethyl[3-fluoro-4-(2-piperidin-1-ylethoxy)benzyl][2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)-3-methylphenyl]amine | 449 mg | C(C)N(C1=C(C(=CC=C1)C)C1CC2=CC=C(C=C2CC1)OC)CC1=CC(=C(C=C1)OCCN1CCCCC1)F | C34H43FN2O2
